US05589478
To a solution of N-{6-{2-(5-aminopyridin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide (150 mg) in pyridine (2 ml) is added a solution of benzoyl chloride (43 mg) in methylene chloride (0.4 ml), and the mixture is stirred at room temperature for two hours. To the reaction solution is added 10% hydrochloric acid, and the mixture is extracted with ethyl acetate. The ethyl acetate layer is washed, dried and evaporated to remove the solvent. The residue is recrystallized from ethyl acetate/n-hexane to give N-(6-[2-{6-(4-tert-butylphenylsulfonylamino)-5-(4-methylphenyl)pyrimidin-4-yloxy}ethoxy]pyridin-3-yl)benzamide (161 mg) as crystals.

reactant | N-{6-{2-(5-aminopyridin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide | 150 mg | NC=1C=CC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C | C28H31N5O4S
reactant | benzoyl chloride | 43 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 0.4 ml | C(Cl)Cl | CH2Cl2
product | N-(6-[2-{6-(4-tert-butylphenylsulfonylamino)-5-(4-methylphenyl)pyrimidin-4-yloxy}ethoxy]pyridin-3-yl)benzamide | 161 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC=N1)OCCOC1=CC=C(C=N1)NC(C1=CC=CC=C1)=O)C1=CC=C(C=C1)C | C35H35N5O5S
